US06441017B1
Step G: (S)-{1-[7-(tert-Butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxo-pyrrolidin-3-yl}-{2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}carbamic Acid tert-Butyl Ester
To a stirred solution of (S)-1-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxo-3-({2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}amino)pyrrolidine, as described above in Step F, (1.20 g, 1.47 mmol) in degassed DMF (15 mL) was added di-tert-butyl dicarbonate (352 mg, 1.61 mmol) and the resulting mixture was stirred at ambient temperature for 18 hours. The solvent was removed under reduced pressure and the residue was purified by flash column chromatography on silica, eluting with EtOAc—1% MeOH—0.1% NH4OH to yield the desired product.

reactant | (S)-1-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxo-3-({2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}amino)pyrrolidine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C=CC=C(C2=C1)N1C([C@H](CC1)NCCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C54H52N4O2Si
reactant | di-tert-butyl dicarbonate | 1.61 mmol, 352 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (S)-{1-[7-(tert-Butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxo-pyrrolidin-3-yl}-{2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(N(CCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C@@H]1C(N(CC1)C1=CC=CC2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O)=O | C59H60N4O4Si
